US07214802B2
N-(5-tert-Butyl-3-methanesulfonylamino-2-methoxy-phenyl)-3,4-dimethyl-5-(4-pyridin-3-yl-[1,2,3]triazol-1-yl)-benzamide
Example 8 was prepared by coupling 3,4-dimethyl-5-(4-pyridin-3-yl-[1,2,3]triazol-1-yl)-benzoic acid with N-(3-amino-5-tert-butyl-2-methoxy-phenyl)-methane-sulfonamide in the same manner as Example 1. ESI MS m/z 549 [C28H32N6O4S+H]+.

reactant | 3,4-dimethyl-5-(4-pyridin-3-yl-[1,2,3]triazol-1-yl)-benzoic acid | CC=1C=C(C(=O)O)C=C(C1C)N1N=NC(=C1)C=1C=NC=CC1 | C16H14N4O2
reactant | N-(3-amino-5-tert-butyl-2-methoxy-phenyl)-methane-sulfonamide | NC=1C(=C(C=C(C1)C(C)(C)C)NS(=O)(=O)C)OC | C12H20N2O3S
product | N-(5-tert-Butyl-3-methanesulfonylamino-2-methoxy-phenyl)-3,4-dimethyl-5-(4-pyridin-3-yl-[1,2,3]triazol-1-yl)-benzamide | C(C)(C)(C)C=1C=C(C(=C(C1)NC(C1=CC(=C(C(=C1)N1N=NC(=C1)C=1C=NC=CC1)C)C)=O)OC)NS(=O)(=O)C | C28H32N6O4S
